US07094801B2
4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid, hydrochloride
4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-benzaldehyde (Ex-60A, 0.15 g, 0.43 mmol) and 4-acetylbenzoic acid (0.071 g, 0.43 mmol) were dissolved in a dimethylformamide-methanol solution (3.0 mL, 7:3). After complete dissolution, lithium methoxide (0.065 g, 1.7 mmol) was added and the resulting bright orange slurry was stirred in the dark at room temperature for 2 h. Upon completion, as determined by HPLC, the mixture was diluted with water (10 mL), acidified with a 1 N hydrochloric acid solution, and extracted with an ethyl acetate:tetrahydrofuran mixture (1:1, 6×20 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude solid was slurried in ethyl alcohol (5 mL) to remove residual impurities and the resulting solid was collected on filter paper and dried in vacuo to yield 0.21 g (98%) of the title compound as a dark yellow solid, mp: 255° C. (dec). 1H-NMR (300 MHz, DMSO-d6) δ 8.34 (s, 1H), 8.26 (d, 2H, J=8.7 Hz), 8.11 (d, 2H, J=8.7 Hz), 8.08 (s, 1H), 7.95 (d, 1H, J=15.9 Hz), 7.71 (d, 1H, J=3.3 Hz), 7.55 (d, 1H, J=4.5 Hz), 7.15 (dd, 1H, J=4.5, 3.3 Hz), 6.94 (s, 1H), 4.68 (brs, 2H), 4.04 (s, 3H), 3.98 (brs, 2H), 3.81–3.88 (brm, 2H), 3.70 (brs, 2H), 3.54–3.58 (brm, 2H), 3.29 (brs, 2H). MS (ESI) m/z=494 ([M+H]+, 100%). Anal. Calcd. for C27H28ClNO6S: C, 61.18; H, 5.32; Cl, 6.69; N, 2.64; S, 6.05. Found: C, 61.18; H, 5.41; Cl, 6.16; N, 2.73; S, 5.87.

reactant | 4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-benzaldehyde | 0.43 mmol, 0.15 g | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCCN1CCOCC1 | C18H21NO4S
reactant | 4-acetylbenzoic acid | 0.43 mmol, 0.071 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | lithium methoxide | 1.7 mmol, 0.065 g | C[O-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide methanol | 3.0 mL | CN(C=O)C.CO
solvent | water | 10 mL | O | H2O
product | 4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid, hydrochloride | 0.21 g, 98% | Cl.COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OCCN1CCOCC1 | InChI=1S/C27H27NO6S.ClH/c1-32-25-18-24(34-15-12-28-10-13-33-14-11-28)21(17-22(25)26-3-2-16-35-26)8-9-23(29)19-4-6-20(7-5-19)27(30)31;/h2-9,16-18H,10-15H2,1H3,(H,30,31);1H/b9-8+;
